US08791132B2
A solution of 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid methyl ester (300 mg, 0.795 mmol) in THF (5 mL) was added dropwise to a solution of LiAlH4 (93 mg, 2.37 mmol) in THF (10 mL). The reaction mixture was stirred at RT for 30 min. After consumption of starting material, the reaction mixture was cooled to −78° C. 0.2 mL of water and 0.2 mL of 15% NaOH solution was added and the reaction mixture was allowed to come to RT and diluted with THF and filtered. The filtrate was concentrated and the crude product was purified by passing through a column of silica gel (100-200 mesh) by using eluent 2% MeOH in DCM to obtain 69 mg of 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butan-1-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.48 (d, 2H), 7.18 (s, 1H), 7.1 (d, 1H), 7.01 (d, 2H), 6.97 (d, 1H), 4.2 (dd, 1H), 4.15 (dd, 1H), 3.64 (d, 1H), 3.56 (m, 2H), 3.4 (m, 2H), 2.7 (m, 3H), 2.4 (m, 1H), 2.5 (s, 3H), 2.43 (s, 3H), 1.94 (m, 2H). Separation by chiral HPLC provided enantiomers II-224a-b.

reactant | 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid methyl ester | 0.795 mmol, 300 mg | COC(CC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C2=CC=NC=C2)=O | C23H27N3O2
reactant | LiAlH4 | 2.37 mmol, 93 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butan-1-ol | 69 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CCO)C2=CC=NC=C2)CC1 | C22H27N3O
